US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 1 using 5-oxo-2,3,4,5-tetrahydro-1-benzothiepine-8-carboxylic acid methyl ester (3.30 g) and sodium borohydride (529 mg), the objective 5-hydroxy-2,3,4,5-tetrahydro-1-benzothiepine-8-carboxylic acid methyl ester (3.26 g) was obtained a pale yellow oil.

reactant | 5-oxo-2,3,4,5-tetrahydro-1-benzothiepine-8-carboxylic acid methyl ester | 3.30 g | COC(=O)C1=CC2=C(C(CCCS2)=O)C=C1 | C12H12O3S
reactant | sodium borohydride | 529 mg | [BH4-].[Na+]
product | 5-hydroxy-2,3,4,5-tetrahydro-1-benzothiepine-8-carboxylic acid methyl ester | 3.26 g | COC(=O)C1=CC2=C(C(CCCS2)O)C=C1 | C12H14O3S
